* Schematics Netlist *



V_V1         Vee 0 -5
V_V2         Vcc 0 5
C_CE         0 $N_0001  100u  
R_RE1         Vee $N_0001  220  
C_C2         $N_0002 $N_0003  100u  
R_RE2         Vee $N_0002  470  
Q_Q2         Vcc $N_0004 $N_0002 BJT3904 
Q_Q1         $N_0004 $N_0005 $N_0001 BJT3904 
R_RC1         $N_0004 Vcc  470  
C_C1         $N_0006 $N_0005  100u  
R_R2         $N_0005 Vcc  2.2k  
V_V4         $N_0007 0 DC 0 AC 1
+SIN 1.5 1mv 1k 0 0 0
R_R1         Vee $N_0005  1k  
R_Rs         $N_0007 $N_0006  1k  
R_RL         0 $N_0003  5k  
